US07951801B2
4-((S)-2-Acetylamino-propyl)-6,6-dimethyl-morpholine-3-(S)-carboxylic acid (6-chloro-9H-b-carbolin-8-yl)-amide
The desired compound was prepared according to the previous example from 4-(2-Amino-propyl)-6,6-dimethyl-morpholine-3-carboxylic acid (6-chloro-9H-β-carbolin-8yl)-amide (3 CF3COOH salt) and acetic anhydride. 1H-NMR (300 MHz, methyl-d3 alcohol-d): δ 1.15 (d, 3H), 1.23 (s, 3H), 1.39 (s, 3H), 1.98 (s, 3H), 2.24 (d, 1H), 2.38 (m, 1H), 2.68 (m, 1H), 2.92 (d, 1H), 3.24 (m, 1H), 3.98 (m, 2H), 4.22 (m, H), 7.78 (d, 1H), 7.98 (m, 2H), 8.27 (d, 1H), 8.84 (s, 1H). Retention Time (LC, method: ammonium acetate standard): 1.54 min. MS (M+H+): 458.

reactant | 4-(2-Amino-propyl)-6,6-dimethyl-morpholine-3-carboxylic acid (6-chloro-9H-β-carbolin-8yl)-amide | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)C1N(CC(OC1)(C)C)CC(C)N | C21H26ClN5O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
product | 4-((S)-2-Acetylamino-propyl)-6,6-dimethyl-morpholine-3-(S)-carboxylic acid (6-chloro-9H-b-carbolin-8-yl)-amide | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)[C@H]1N(CC(OC1)(C)C)C[C@H](C)NC(C)=O | C23H28ClN5O3
